US04868321
To a stirred solution of 20.0 g (0.13 mole) of 4-chloro-2-fluoroaniline in 250 ml of toluene was added dropwise a solution of 17.2 ml (0.13 mole) of trichloromethyl chloroformate in 40 ml of toluene. Upon completion of addition the reaction mixture was heated to reflux where it stirred for 16 hours. The solvent was separated from the reaction mixture by distillation to yield 21.8 g of 4-chloro-2-fluorophenyl isocyanate as an oil. The reaction was repeated several times.

reactant | 4-chloro-2-fluoroaniline | 0.13 mole, 20.0 g | ClC1=CC(=C(N)C=C1)F | C6H5ClFN
reactant | trichloromethyl chloroformate | 0.13 mole, 17.2 ml | ClC(=O)OC(Cl)(Cl)Cl | C2Cl4O2
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | 4-chloro-2-fluorophenyl isocyanate | 21.8 g | ClC1=CC(=C(C=C1)N=C=O)F | C7H3ClFNO
